US04509537
The reaction of 2-methoxy-4-allylphenyl chloroformate with 1,3-propanediol yields 1-(2-methoxy-4-allylphenoxycarbonyloxy)-3-propanol.

reactant | 2-methoxy-4-allylphenyl chloroformate | ClC(=O)OC1=C(C=C(C=C1)CC=C)OC | C11H11ClO3
reactant | 1,3-propanediol | C(CCO)O | C3H8O2
product | 1-(2-methoxy-4-allylphenoxycarbonyloxy)-3-propanol | COC1=C(OC(=O)OCCCO)C=CC(=C1)CC=C | C14H18O5
